US06136823
Synthesis of 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6-fluoro-7-(2,2,2-trifluoroethylamino)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
2,2,2-Trifluoroethylamine (50 mg) and pyridine (300 ml) were added to 1-(5-amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (110 mg), and the mixture was stirred at 40° C. for 2 days. Additional 2,2,2-trifluoroethylamine (50 mg) was added, and the mixture was stirred at 40° C. for 2 days. Diethyl ether was added to the reaction mixture, followed by stirring. A supernatant liquid was removed, and solids deposited were collected by filtration and washed with ethanol to obtain the title compound (90 mg) as a colorless powder.

reactant | 2,2,2-Trifluoroethylamine | 50 mg | FC(CN)(F)F | C2H4F3N
reactant | pyridine | 300 ml | N1=CC=CC=C1 | C5H5N
reactant | 1-(5-amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 110 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C16H7ClF4N2O3
reactant | 2,2,2-trifluoroethylamine | 50 mg | FC(CN)(F)F | C2H4F3N
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6-fluoro-7-(2,2,2-trifluoroethylamino)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 90 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)NCC(F)(F)F)F)=O)C(=O)O)F)F | C18H10ClF6N3O3
